US07759361B2
5.2 2-(2,3-Dihydro-indol-1-ylmethyl)-1-aza-bicyclo[2.2.2]octan-3-one
To a stirred solution of 2-methylene-3-quinuclidinone (0.5 g, 0.0028 mol) in water (6 ml) indoline (0.66 g, 0.0057 mol), triethylamine (0.84 g, 0.0084 mol) and tetra-n-butyl ammonium bromide (90 mg, 0.00028 mol) were added and the reaction mixture were allowed to stir at 80° C. for 18-20 h. The reaction mixture was quenched with ice-cold water (20 ml), extracted with dichloromethane (3×50 ml), the organic layers were washed with brine and dried over sodium sulphate, filtered and concentrated to get the crude product which was purified as greenish yellow solids (125 mg, 17%) by column chromatography on neutral silica gel using chloroform as eluent.

reactant | 2-methylene-3-quinuclidinone | 0.0028 mol, 0.5 g | C=C1N2CCC(C1=O)CC2 | C8H11NO
reactant | water | 0.0057 mol, 6 ml, 0.66 g | O | H2O
reactant | triethylamine | 0.0084 mol, 0.84 g | C(C)N(CC)CC | C6H15N
catalyst | tetra-n-butyl ammonium bromide | 0.00028 mol, 90 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(2,3-Dihydro-indol-1-ylmethyl)-1-aza-bicyclo[2.2.2]octan-3-one | N1(CCC2=CC=CC=C12)CC1N2CCC(C1=O)CC2 | C16H20N2O
